US07321045B2
Part G—Preparation of Methyl 2-(((2,6-Dimethyl-4-(3-(N-(3-(2-(2-(3-((phenylmethoxy)carbonylamino)propoxy)ethoxy)ethoxy)propyl)carbamoyl)propoxy)phenyl)sulfonyl)amino)-3-((1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)(1H-indazol-5-yl))carbonylamino)propionate
A solution of 1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)-1H-indazole-5-carboxylic acid, methyl 3-amino-2-(((2,6-dimethyl-4-(3-(N-(3-(2-(2-(3-((phenylmethoxy)carbonylamino)propoxy)ethoxy)ethoxy)propyl)carbamoyl)propoxy)phenyl)sulfonyl)amino)propanoate, DIEA, and HBTU in anhydrous DMF are stirred at ambient temperatures under nitrogen for 4 h. The DMF is removed under vacuum and the resulting residue is dissolved in EtOAc and washed with water, saturated NaHCO3, and saturated NaCl. The EtOAc layer is dried (MgSO4) and concentrated to dryness. The crude product is purified by flash chromatography on silica gel using EtOAc/MeOH.

reactant | 1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)-1H-indazole-5-carboxylic acid | C1(=CC=CC=C1)C(N1C(=NC=C1)NCCCN1N=CC2=CC(=CC=C12)C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H29N5O2
reactant | methyl 3-amino-2-(((2,6-dimethyl-4-(3-(N-(3-(2-(2-(3-((phenylmethoxy)carbonylamino)propoxy)ethoxy)ethoxy)propyl)carbamoyl)propoxy)phenyl)sulfonyl)amino)propanoate | NCC(C(=O)OC)NS(=O)(=O)C1=C(C=C(C=C1C)OCCCC(NCCCOCCOCCOCCCNC(=O)OCC1=CC=CC=C1)=O)C | C34H52N4O11S
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 2-(((2,6-Dimethyl-4-(3-(N-(3-(2-(2-(3-((phenylmethoxy)carbonylamino)propoxy)ethoxy)ethoxy)propyl)carbamoyl)propoxy)phenyl)sulfonyl)amino)-3-((1-(3-((1-(triphenylmethyl)imidazol-2-yl)amino)propyl)(1H-indazol-5-yl))carbonylamino)propionate | CC1=C(C(=CC(=C1)OCCCC(NCCCOCCOCCOCCCNC(=O)OCC1=CC=CC=C1)=O)C)S(=O)(=O)NC(C(=O)OC)CNC(=O)C=1C=C2C=NN(C2=CC1)CCCNC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C67H79N9O12S
